US07968534B2
N-[4-Chloro-2-(pyridin-2-ylmethyl)-phenyl]-3,4-dimethoxybenzenesulfonamide
0.7 ml of pyridine and then 2.27 g of 3,4-dimethoxybenzenesulfonyl chloride are successively added at room temperature to 1.86 g of 4-chloro-2-(pyridin-2-ylmethyl)aniline in solution in 20 ml of tetrahydrofuran. After 72 hours at room temperature, the reaction medium is taken up in water and extracted with ethyl acetate, the organic phase is dried over anhydrous sodium sulfate and concentrated in order to obtain 2.12 g of the expected product.

reactant | pyridine | 0.7 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,4-dimethoxybenzenesulfonyl chloride | 2.27 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | 4-chloro-2-(pyridin-2-ylmethyl)aniline | ClC1=CC(=C(N)C=C1)CC1=NC=CC=C1 | C12H11ClN2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[4-Chloro-2-(pyridin-2-ylmethyl)-phenyl]-3,4-dimethoxybenzenesulfonamide | 2.12 g | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC)CC1=NC=CC=C1 | C20H19ClN2O4S
